US05166347
Preparation of N-cyano-N'-(2-phenylethyl) 3-thiophenecarboximidamide
Methyl N-cyano-3-thiophenecarboximidate (0.33 g, 2.0 mmol) was dissolved in methanol (2 ml), and 2-phenylethylamine (0.27 g, 2.2 mmol) was added. The mixture was stirred at room temperature for 40 minutes. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was crystallized from diethyl ether to give the title compound (0.48 g, 1.89 mmol, yield: 95%) as colorless crystals.

reactant | Methyl N-cyano-3-thiophenecarboximidate | 2.0 mmol, 0.33 g | C(#N)N=C(OC)C1=CSC=C1 | C7H6N2OS
reactant | 2-phenylethylamine | 2.2 mmol, 0.27 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | methanol | 2 ml | CO | CH4O
product | N-cyano-N'-(2-phenylethyl) 3-thiophenecarboximidamide | 1.89 mmol, 0.48 g, yield: 95% | C(#N)NC(=NCCC1=CC=CC=C1)C1=CSC=C1 | C14H13N3S
